US07456315B2
To a 3-neck, 2 L round bottom flask was added 173.71 g (1.0 mol, 97%) of 2-amino-2-methyl-1-propanol in 300 mL of dry methylene chloride. The flask was equipped with a magnetic stir bar and thermometer and was placed into a dry ice/acetone bath and cooled to 0° C. From a separatory funnel, a solution of 4-ethylbenzoyl chloride (168.5 g, 1.0 mol), dissolved in about 300 mL of methylene chloride was slowly added, while maintaining the reaction temperature below 5° C. The mixture was allowed to stir at room temperature overnight. Solid propanol amine-HCl was filtered off and the filter cake was washed with methylene chloride. The combined methylene chloride extracts were concentrated partially on a rotary evaporator and used directly in the next step. The intermediate amide solution generated in the first step was cooled in an ice bath and DMF (0.5 mL) was added. 125 g (1.04 mol) of SOCl2 in 50 mL of methylene chloride from a separatory funnel was added drop-wise at a controlled rate, keeping the reaction temperature at 0-5° C. The reaction was stirred at room temperature for an additional 2-3 hours. The reaction mixture was cooled in an ice bath and 25% NaOH was added to make the aqueous layer basic (pH=11-12). The mixture was transferred to a large separatory funnel, the methylene chloride layer was separated, and the aqueous layer was extracted twice with chloroform. The combined organic phases were dried and evaporated to yield 201 g of 2-(4-ethyl-phenyl)-4,4-dimethyl-4,5-dihydro-oxazole as a yellow viscous oil. 1H NMR (CDCl3, 300 MHz), δ (ppm): 7.8 (d, 2H), 7.2 (d, 2H), 4.088 (s, 2H), 2.68 (q, 2H), 1.375 (s, 6H), 1.24 (t, 3H).

reactant | 2-amino-2-methyl-1-propanol | 1.0 mol, 173.71 g | NC(CO)(C)C | C4H11NO
reactant | 4-ethylbenzoyl chloride | 1.0 mol, 168.5 g | C(C)C1=CC=C(C(=O)Cl)C=C1 | C9H9ClO
reactant | SOCl2 | 1.04 mol, 125 g | O=S(Cl)Cl | Cl2OS
reactant | NaOH | [OH-].[Na+]
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | about 300 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-ethyl-phenyl)-4,4-dimethyl-4,5-dihydro-oxazole | 201 g | C(C)C1=CC=C(C=C1)C=1OCC(N1)(C)C | C13H17NO
